US05045564
A mixture of 4-(1-hydroxynonyl)-2-trimethylsilylfuran (1.65 g, 5.9 mmol), acetic anhydride (2 ml) and pyridine (3 ml) was stirred under argon at approximately 20° for 17 hours. After most of the solvent was removed under high vacuum (less than 40° C.), the residue was dissolved in ether (40 ml) and washed thoroughly with aqueous copper sulfate and water. Drying (magnesium sulfate) and evaporation gave a brown oil, which was flash chromatographed on silica using 5% ethyl ether/petroleum ether. Fractions with Rf 0.32 on evaporation afforded 4-(1-acetoxynonyl)-2-trimethylsilylfuran as a pale yellow oil.

reactant | 4-(1-hydroxynonyl)-2-trimethylsilylfuran | 5.9 mmol, 1.65 g | OC(CCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C16H30O2Si
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4-(1-acetoxynonyl)-2-trimethylsilylfuran | C(C)(=O)OC(CCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C18H32O3Si
